US08455522B2
Step 2: Synthesis of 6-Fluoro-5-(5-hydroxymethyl-pyridin-3-yl)-3-methyl-3H-benzooxazol-2-one
A mixture of 6-Fluoro-3-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one (352 mg, 1.2 mmol), (5-bromopyridin-3-yl)methanol (188 mg, 1 mmol), Na2CO3 (2 M in water, 1 mL, 2 mmol), polymer bound Pd(PPh3)4 (642 mg, 0.07 mmol) in DME (4 mL) was heated by microwave at 100° C. for 1.25 h. The reaction mixture was cooled to room temperature and the mixture was diluted with CH3OH/CH2Cl2 (1:1, 50 mL) and filtered through a pad of celite. The celite pad was further washed with CH2Cl2/CH3OH (50 mL). Ater concentration, the residue was purified by flash column (0-10%, v/v, CH3OH in CH2Cl2) and afforded 121.9 mg of the desired product as a white solid. ESI-MS m/z: 274.9 [M+1]+, Retention time 0.93 min; 1HNMR (MeOD, 400.342 MHz) δ 3.44 (s, 3H), 4.74 (s, 2H), 7.30 (d, J=9.7 Hz, 1H), 7.34 (d, J=6.4 Hz, 1H), 8.03 (s, 1H), 8.55 (s, 1H), 8.64 (s, 1H)

reactant | 6-Fluoro-3-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one | 1.2 mmol, 352 mg | FC1=CC2=C(N(C(O2)=O)C)C=C1B1OC(C(O1)(C)C)(C)C | C14H17BFNO4
reactant | (5-bromopyridin-3-yl)methanol | 1 mmol, 188 mg | BrC=1C=C(C=NC1)CO | C6H6BrNO
reactant | Na2CO3 | 2 mmol, 2 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 4 mL | COCCOC | C4H10O2
solvent | CH3OH CH2Cl2 | 50 mL | CO.C(Cl)Cl
catalyst | Pd(PPh3)4 | 0.07 mmol, 642 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Fluoro-5-(5-hydroxymethyl-pyridin-3-yl)-3-methyl-3H-benzooxazol-2-one | 121.9 mg | FC1=CC2=C(N(C(O2)=O)C)C=C1C=1C=NC=C(C1)CO | C14H11FN2O3
